Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
Large left adnexal mass
 
Major Surgical or Invasive Procedure:
laparoscopic bilateral salpingo-oopherectomy

 
History of Present Illness:
___ y/o G2P2 presents to the ED with 6 days of constipation. The 
patient was evaluated on ___, and had minimal relief from an 
enema and milk of magnesium. During her work-up, she had a CT 
that showed a 11cm dermoid cyst. She is passing flatus, and has 
had an appetite, albeit small. She has never experienced
constipation to this degree before.

The patient reports pain has been present for the past year, and 
it has acutely worsened in the past few days. She describes the 
pain as a dull pelvic pain. She describes lower abdominal 
fullness that is constant with pain radiating to her left.  She 
denies nausea and vomiting. She denies diarrhea, and minimal
relief with laxatives. No dysuria or changes in urinary 
frequency. She denies postmenopausal bleeding. She is not 
sexually active, and has not seen a gynecologist in ___ years.

ROS: no palpitations, no dizziness, no sob/cp  
 
Past Medical History:
Ob/Gyn History: G2P2, SVD x 2
PMH: hypothyroidism, no asthma, no HTN, no T2DM
PSH: hernia repair
PGYNHx: no h/o fibroids, cysts or STIs, last Pap in ___, wnl 
per
pt report

 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Physical Exam on admission
Vitals:
ED: 100.3  140/96  79  18  99% on RA
    97.9  ___   63  18  99% on RA
Floor: 97.9  131/73  65  16  99/RA
Gen: A&O, appears to be in no distress, not writhing in pain
Resp: no visible respiratory distress, CTAB
CV: RRR
Abd: soft, mildly tender in the midline/left lower quadrant but
no peritoneal signs, no rebound, no guarding no distension,
visibly large mass extending up to the left of the umbilicus
Ext: calves nontender bilaterally, no c/c/e

Physical Exam on Discharge: 
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 12:15AM BLOOD WBC-11.0* RBC-3.92 Hgb-11.8 Hct-36.3 
MCV-93 MCH-30.1 MCHC-32.5 RDW-13.6 RDWSD-45.9 Plt ___
___ 09:05PM BLOOD WBC-11.4* RBC-4.27 Hgb-12.7 Hct-39.4 
MCV-92 MCH-29.7 MCHC-32.2 RDW-13.5 RDWSD-46.2 Plt ___
___ 09:05PM BLOOD Neuts-69.7 Lymphs-17.6* Monos-9.2 Eos-2.2 
Baso-0.9 Im ___ AbsNeut-7.94* AbsLymp-2.01 AbsMono-1.05* 
AbsEos-0.25 AbsBaso-0.10*
___ 09:09PM BLOOD ___ PTT-28.4 ___
___ 09:05PM BLOOD Glucose-108* UreaN-11 Creat-0.7 Na-139 
K-3.8 Cl-102 HCO3-25 AnGap-16
___ 09:05PM BLOOD Calcium-9.0 Phos-3.3 Mg-2.0
___ 09:05PM BLOOD CEA-3.3 CA125-28
___ 12:21AM BLOOD Lactate-0.8
.
Pathology Pending
.
Pelvic Ultrasound
IMPRESSION: 
1.  Large midline heterogeneous mass with calcifications, 
consistent with a dermoid, as seen on recent CT.
2.  Ovaries not visualized.
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
with a large left adnexal mass. She is now status post a 
laparoscopic bilateral salpingo-oophorectomy that took place on 
hospital day 1. Please see the operative report for full 
details.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with oral oxycodone, ibuprofen, 
and acetaminophen. On post-operative day 1, her urine output was 
adequate so her foley was removed and she voided spontaneously. 
.
Patient with complaints of constipation while inpatient. She 
received BID colace and miralax prn. She received dulcolax 
suppository x1 without relief of symptoms. 
.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
levoxyl 125mcg
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
Maximum 4000 mg in 24 hours. 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0
3. Ibuprofen 400 mg PO Q8H:PRN Pain 
Take with food. 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*0
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drive while taking. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office at 
___ with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina for 6 weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___